* Z:\mnt\design.r\spice\examples\3796-1.asc
V1 IN 0 PWL(0 0 100u 16)
R2 IN N004 499K
R3 N004 0 97.6K
C2 N010 0 .1µ
C3 N016 N019 22n
R4 N017 0 31.6K
C4 N018 0 .05µ
C5 N013 0 4.7µ
M§Q1 N001 N005 N008 N008 BSH114
R5 N008 0 15m
R6 OUT N011 500m
M§Q2 N014 N012 N011 N011 IRF9640
D1 N014 0 LXHL-BW02
R7 OUT N006 1Meg
R8 N006 0 22.6K
C6 OUT 0 2.2µ x4
L1 IN N001 22µ
D2 N001 OUT PDS5100
R9 N019 0 1K
XU1 OUT N011 N012 0 N010 N009 N006 N016 N007 N007 N018 N017 N007 N007 NC_01 NC_02 MP_03 N008 N005 N013 MP_04 MP_05 IN N004 OUT N003 N002 N009 LT3796-1
R1 N009 0 40.2K
M§Q3 N015 N012 N003 N003 IRF9640
D3 N015 0 LXHL-BW02
R10 OUT N003 500m
R11 OUT N002 10K
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 2m startup
.lib LT3796-1.sub
.backanno
.end
